US07119207B2
A 2.2 g (8.7 mmol) solution of 3-(6-methoxy-3-nitro-pyridin-2-yl)-acrylic acid ethyl ester (M. Makosza, A. Tryula Synthesis, 1987, 1142–1144) in 50 ml of ethanol containing a catalytic amount of 10% Pd/C was hydrogenated at 50 PSI for 2 hours. The reaction was filtered and the solvent evaporated to afford crude intermediate 3-(3-amino-6-methoxy-pyridin-2-yl)-propionic acid ethyl ester. This material was disolved in 5 ml of acetic acid and heated on a steam bath for 30 minutes. The solution was cooled to room temperature and the solvent evaporated. The residue was dissolved in 25 ml of ethyl acetate and washed with saturated NaHCO3. The ethyl acetate solution was dried (Na2SO4) and evaporated to yield a brown solid residue. This material was chromatographed on silica using 5:1 chloroform/ethyl acetate as the elutant. Appropriate fractions were combined and evaporated to yield 1.2 g of 6-methoxy-3,4-dihydro-1H-[1,5]naphthyridin-2-one. TLC: Rf=0.55 (5:1 ethyl acetate:hexane). 1H NMR (CDCl3) δ 8.6 (s, 1H), 7.1 (d, 1H), 6.6 (d, 1H), 3.9 (s, 3H), 3.05 (m, 2H), 2.7 (m, 2H). Mass Spectrum: m/e=179.2 (p+1).

reactant | 3-(6-methoxy-3-nitro-pyridin-2-yl)-acrylic acid ethyl ester | C(C)OC(C=CC1=NC(=CC=C1[N+](=O)[O-])OC)=O | C11H12N2O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3-(3-amino-6-methoxy-pyridin-2-yl)-propionic acid ethyl ester | C(C)OC(CCC1=NC(=CC=C1N)OC)=O | C11H16N2O3
